US06972297B2
(a) Ethyl 2-aminothiazole-4-carboxylate
2-Aminothiazole-4-carboxylic acid hydrobromide (10 g) (E. C. Roberts and Y. F. Shealy, J. Med. Chem. 15 (1972)1310-1312) in ethanol (35 ml) was treated with conc. sulfuric acid and refluxed for 48 hours. The solution was evaporated to 25% of original volume and water (20 ml) added. It was made basic by addition of NaHCO3, the solid filtered, washed with water and dried under vacuum to give the title compound (5.64 g). NMR δ(CDCl3) 137 (3H,t), 4.36(2H,q), 5.39(2H, broad), 7.43(1H,s).

reactant | 2-Aminothiazole-4-carboxylic acid hydrobromide | 10 g | Br.NC=1SC=C(N1)C(=O)O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 35 ml | C(C)O | C2H6O
product | Ethyl 2-aminothiazole-4-carboxylate | 5.64 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
